US04670421
N-[4-[14-(Trimethylsilyl)tetradecylamino]benzoyl]methanesulfonamide
A solution of 12.3 g. of 4-[14-(trimethylsilyl)tetradecylamino]benzoyl chloride hydrochloride and 2.8 g. of methanesulfonamide in 150 ml. of pyridine is stirred at reflux for 2 hours and then evaporated in vacuo. The residue is partitioned between water and diethyl ether, the aqueous layer acidified with 1N hydrochloric acid, and the organic layer separated, dried with magnesium sulfate and evaporated. Crystallization of the residue affords the product as a white solid.

reactant | 4-[14-(trimethylsilyl)tetradecylamino]benzoyl chloride hydrochloride | Cl.C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1)(C)C
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[4-[14-(Trimethylsilyl)tetradecylamino]benzoyl]methanesulfonamide | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)NS(=O)(=O)C)C=C1)(C)C | C25H46N2O3SSi
